************************************************************************
* auCdl Netlist:
* 
* Library Name:  Std_cells
* Top Cell Name: OAI22
* View Name:     schematic
* Netlisted on:  Mar 26 00:23:07 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Std_cells
* Cell Name:    OAI22
* View Name:    schematic
************************************************************************

.SUBCKT OAI22 A B C D OUT
*.PININFO A:I B:I C:I D:I OUT:O
MM3 net3 C vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM2 OUT D net3 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM1 OUT B net2 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM0 net2 A vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM7 net6 C gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM6 net6 D gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM5 OUT B net6 gnd! nmos_rvt w=108.00n l=20n nfin=4
MM4 OUT A net6 gnd! nmos_rvt w=108.00n l=20n nfin=4
.ENDS

